US07968746B2
Following the amide coupling procedure described in protocol A, 500 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.0 mmol), 356 mg CDI (2.2 mmol) and 468 mg 6-amino-1-hexanol (4.0 mmol) yielded 161 mg of 6-hydroxy-N-(6-hydroxyhexyl)-2,5,7,8-tetramethylchroman-2-carboxamide as a white solid.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.0 mmol, 500 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.2 mmol, 356 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 6-amino-1-hexanol | 4.0 mmol, 468 mg | NCCCCCCO | C6H15NO
product | 6-hydroxy-N-(6-hydroxyhexyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 161 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCCCCCO)C)C | C20H31NO4
